US04172832
A mixture of 45 mg of 3-fluoromethyl-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid tert.-butyl ester and 2 ml of trifluoroacetic acid is left to stand for 30 minutes at room temperatur. The trifluoroacetic acid is then removed under reduced pressure and the residue is washed with acetone/ethyl ether mixture to give 3-fluoromethyl-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid as an amorphous powder; thin layer chromatogram on silica gel (system: chloroform/methanol 1:1): Rf~0.50; ultraviolet absorption spectrum (ethanol): λmax : 259μ (ε=5300); infrared absorption spectrum (nujol): characteristic bands at 3.02μ; 5.60μ; 5.78μ; 6.06μ and 6.51μ.

reactant | 3-fluoromethyl-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid tert.-butyl ester | 45 mg | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)CF | C20H23FN2O4S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-fluoromethyl-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid | FCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H15FN2O4S
